US08314127B2
c) 4-{[4-(4-Chloro-2-methylphenoxy)piperidin-1-yl]methyl}cyclopentane-1,2-diol
4-{[4-(4-Chloro-2-methylphenoxy)piperidin-1-yl]carbonyl}cyclopentane-1,2-diol (32.0 g) was dissolved in tetrahydrofuran (100 mL) and stirred, at room temperature, under nitrogen. Borane (1 M solution in THF; 300 mL) was added dropwise and then the reaction mixture was heated under reflux for 2 h. The reaction mixture was allowed to cool slightly and methanol (60 mL) was added carefully. Heating was resumed and continued overnight. The reaction mixture was concentrated in vacuo and the residue was purified using SCX resin:Non-basic impurities were eluted with methanol then product was eluted with 0.7 M ammonia in methanol. Solvent was removed in vacuo to give the title compound (30 g) as a mixture of 2 stereoisomers.

reactant | 4-{[4-(4-Chloro-2-methylphenoxy)piperidin-1-yl]carbonyl}cyclopentane-1,2-diol | 32.0 g | ClC1=CC(=C(OC2CCN(CC2)C(=O)C2CC(C(C2)O)O)C=C1)C | C18H24ClNO4
reactant | Borane | 1 M, 300 mL | B | BH3
reactant | methanol | 60 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-{[4-(4-Chloro-2-methylphenoxy)piperidin-1-yl]methyl}cyclopentane-1,2-diol | 30 g | ClC1=CC(=C(OC2CCN(CC2)CC2CC(C(C2)O)O)C=C1)C | C18H26ClNO3
